US07939533B2
(S)-N-[4-(2-Chloro-phenyl)-6-(2-hydroxymethyl-pyrrolidin-1-yl)-pyridin-3-yl]-2-(3,5-dichloro-phenyl)-N-methyl-isobutyramide
To a solution of 0.15 g (0.32 mmol) N-[6-chloro-4-(2-chloro-phenyl)-pyridin-3-yl]-2-(3,5-dichloro-phenyl)-N-methyl-isobutyramide and 0.25 g (2.47 mmol) L-prolinol in 2 ml dimethyl sulfoxide 0.2 g (1.55 mmol) Na2CO3 was added and the solution was stirred at 13° C. for 22 h. After cooling to ambient temperature, the solution was poured into 20 ml 0.5 N NaHCO3-solution and extracted three times with 30 ml CH2Cl2. The combined organic layers were dried (Na2SO4), filtered and evaporated. The residue was purified by flash-chromatography (SiO2, CH2Cl2/ethyl acetate 1:2) to give 0.15 g (87%) of the title compound as a white foam.

reactant | N-[6-chloro-4-(2-chloro-phenyl)-pyridin-3-yl]-2-(3,5-dichloro-phenyl)-N-methyl-isobutyramide | 0.32 mmol, 0.15 g | ClC1=CC(=C(C=N1)N(C(C(C)(C)C1=CC(=CC(=C1)Cl)Cl)=O)C)C1=C(C=CC=C1)Cl | C22H18Cl4N2O
reactant | L-prolinol | 2.47 mmol, 0.25 g | N1[C@H](CO)CCC1 | C5H11NO
reactant | dimethyl sulfoxide | 1.55 mmol, 2 ml, 0.2 g | CS(=O)C | C2H6OS
solvent | NaHCO3 | 0.5 N, 20 ml | C(=O)(O)[O-].[Na+]
product | (S)-N-[4-(2-Chloro-phenyl)-6-(2-hydroxymethyl-pyrrolidin-1-yl)-pyridin-3-yl]-2-(3,5-dichloro-phenyl)-N-methyl-isobutyramide | 0.15 g, 87% | ClC1=C(C=CC=C1)C1=C(C=NC(=C1)N1[C@@H](CCC1)CO)N(C(C(C)(C)C1=CC(=CC(=C1)Cl)Cl)=O)C | C27H28Cl3N3O2
